US06509328B1
(3-Amino-4′-fluoro-biphenyl-4-yl)-carbamic Acid tert.-Butyl Ester
Prepared from (4′-fluoro-3-nitro-biphenyl-4-yl)-carbamic acid tert.-butyl ester (Example B12) by catalytic hydrogenation with Raney-Nickel according to the general procedure G (method a). Obtained as a light yellow solid (3.40 g).

reactant | (4′-fluoro-3-nitro-biphenyl-4-yl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=CC=C(C=C1)F)[N+](=O)[O-])=O | C17H17FN2O4
catalyst | Raney-Nickel | [Ni] | Ni
product | (3-Amino-4′-fluoro-biphenyl-4-yl)-carbamic Acid tert.-Butyl Ester | 3.40 g | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=CC=C(C=C1)F)N)=O | C17H19FN2O2
